US04125726
8-Chloro-6-(2-chlorophenyl)-1-methoxy-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, methyl ester
A mixture of 2.9 g (0.007 mole) of 6-(2-chlorophenyl)-1,8-dichloro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid methyl ester, 1.1 g (0.02 mole) of sodium methoxide and 100 ml of dry methanol was heated in a steel bomb at 115°-120° for 20 hrs. The solvent was removed at reduced pressure. The residue was dissolved in methylene chloride, washed with dilute hydrochloric acid to give pale yellow amorphous solid. An ethereal solution (60 ml) of the solid was washed with dilute ammonium hydroxide solution, dried, filtered and concentrated on a steam bath to about 20 ml. White crystals were obtained after keeping the solution at room temperature for several hours with occasional scratching. Recrystallization from ether gave white crystals with mp 155°-160°. Uv λ sh 213 mμ (ε=36,000) max 266 (20,500) ir (CHCl3) 1715 cm-1 (COOCH3); nmr (CDCl3) δ 3.93 ppm (s, 3, COOCH3) 4.23 (s, 3, OCH3) 4.08 (d, 1) and 6.06 (d, 1) AB-system, J=12 Hz, C4 -H) 7.1-7.9 (m, 7, aromatic H).

reactant | 6-(2-chlorophenyl)-1,8-dichloro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid methyl ester | 0.007 mole, 2.9 g | COC(=O)C=1N=C(N2C1CN=C(C1=C2C=CC(=C1)Cl)C1=C(C=CC=C1)Cl)Cl | C19H12Cl3N3O2
reactant | sodium methoxide | 0.02 mole, 1.1 g | C[O-].[Na+]
reactant | methanol | 100 ml | CO | CH4O
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 8-Chloro-6-(2-chlorophenyl)-1-methoxy-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, methyl ester | ClC=1C=CC2=C(C(=NCC=3N2C(=NC3C(=O)OC)OC)C3=C(C=CC=C3)Cl)C1 | C20H15Cl2N3O3
